US07875640B2
3-(2-Methoxyethyl)-4,5-dimethyl-3H-thiazol-2-ylideneamine hydrobromide
A mixture of 4,5-dimethylthiazol-2-ylamine (9.0 g, 70 mmol) and 2-bromoethyl methyl ether (7.9 mL, 84 mmol) were heated at 85° C. for 12 hours. The mixture was cooled to ambient temperature and then triturated with isopropanol. The solid was collected by filtration and dried under vacuum to provide 10 g (56%) of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ ppm 2.17 (s, 3H), 2.19 (s, 3H), 3.25 (s, 3H) 3.56 (t, J=5.1 Hz, 2H) 4.16 (t, J=5.1 Hz, 2H) 9.41 (s, 1H).

reactant | 4,5-dimethylthiazol-2-ylamine | 70 mmol, 9.0 g | CC=1N=C(SC1C)N | C5H8N2S
reactant | 2-bromoethyl methyl ether | 84 mmol, 7.9 mL | COCCBr | C3H7BrO
product | 3-(2-Methoxyethyl)-4,5-dimethyl-3H-thiazol-2-ylideneamine hydrobromide | 10 g, 56% | Br.COCCN1C(SC(=C1C)C)=N | InChI=1S/C8H14N2OS.BrH/c1-6-7(2)12-8(9)10(6)4-5-11-3;/h9H,4-5H2,1-3H3;1H
